US08076486B2
5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-3H-[1,3,4]oxadiazole-2-thione
To a solution of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide (744 mg, 2.ommol) in methanol (15 mL) were added dithiomethane (0.22 mL, 4.66 mmol), followed by potassium hydroxide (2.51 mL, 2.13 mmol). The reaction mixture was stirred at 60° C. for 7 h. The solvent was evaporated and the residue was dissolved in ethyl acetate (50 mL), washed with Brine (15 mL×3), dried over anhydrous MgSO4, filtered, removed off solvent. Residue was subjected to silica gel column (EtOAc:Hexane=1:1) collected product 210 mg. LC-MS (Method A) [5.71 min; 415(M+1)]

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 744 mg | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | dithiomethane | 4.66 mmol, 0.22 mL | C(S)S | CH4S2
reactant | potassium hydroxide | 2.13 mmol, 2.51 mL | [OH-].[K+]
solvent | methanol | 15 mL | CO | CH4O
product | 5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-3H-[1,3,4]oxadiazole-2-thione | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NNC(O1)=S | C13H8FIN4OS
